US03983133
A mixture of 6.5 parts of α-(1-aminoethyl)benzyl alcohol (also known as morephedrine), 5.2 parts of 2-(nitramino)-2-imidazoline and 8 parts of xylene is stirred for 30 minutes while heating at 160°-170°C. The reaction mixture is cooled and diluted with acetone. The latter is removed in vacuo, yielding α-[1-(2-imidazolin-2-ylamino)-ethyl]benzyl alcohol as an oily residue.

reactant | α-(1-aminoethyl)benzyl alcohol | NC(C)C(C1=CC=CC=C1)O | C9H13NO
reactant | 2-(nitramino)-2-imidazoline | N([N+](=O)[O-])C=1NCCN1 | C3H6N4O2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetone | CC(=O)C | C3H6O
product | α-[1-(2-imidazolin-2-ylamino)-ethyl]benzyl alcohol | N1C(=NCC1)NC(C)C(C1=CC=CC=C1)O | C12H17N3O
